US05591762
4'-[(2-n-Propyl-4-methyl-6-(1-cyclobutylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl
Prepared analogously to Example 103 from 4'-[(2-n-propyl-4-methyl-6-(1-cyclobutylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl and sodium azide in dimethylformamide.

reactant | 4'-[(2-n-propyl-4-methyl-6-(1-cyclobutylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(2-triphenylmethyl-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C=C(C=C2C)C=2N=CN(C2)CC2CCC2 | C52H48N8
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4'-[(2-n-Propyl-4-methyl-6-(1-cyclobutylmethyl-imidazol-4-yl)-benzimidazol-1-yl)-methyl]-2-(1H-tetrazol-5-yl)-biphenyl | C(CC)C1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C=C(C=C2C)C=2N=CN(C2)CC2CCC2 | C33H34N8
